US08476455B2
N-(4-cyanopheny)-N-(1H-imidazol-1-yl)-N′-phenylurea
Phenyl isocyanate (3.6 ml, 32.6 mmol) was added to a solution of 4-[N-(1H-imidazol-1-yl)amino]benzonitrile (5 g, 27.17 mmol) in THF (50 ml). The mixture was stirred at 50° C. overnight and after evaporation was crystallised in acetone/EtOH to give white crystals (2.5 g, 30.3%, 178° C.).

reactant | Phenyl isocyanate | 32.6 mmol, 3.6 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-[N-(1H-imidazol-1-yl)amino]benzonitrile | 27.17 mmol, 5 g | N1(C=NC=C1)NC1=CC=C(C#N)C=C1 | C10H8N4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(4-cyanopheny)-N-(1H-imidazol-1-yl)-N′-phenylurea | C(#N)C1=CC=C(C=C1)N(C(=O)NC1=CC=CC=C1)N1C=NC=C1 | C17H13N5O
